US07622486B2
Synthesis of 1-[3-(6′-chloro-4-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-ylamino)-phenyl]-ethanone
Samples of 1-[4-(4-hydroxy-6′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-ylamino)-phenyl]-ethanone (0.99 g, 3.5 mmol) and 4-hydroxypiperidine (0.7079 g, 7 mmol) were dissolved in DMF (10 mL) followed by the addition of potassium carbonate (0.5835 g, 4.2 mmol). The reaction mixture was stirred and refluxed for 12-18 hours at 100° C. under N2. The reaction mixture was diluted with CH2Cl2. The filtrate was washed two times with water and one time with brine. The organic phase was collected and dried over potassium carbonate. The filtered sample was concentrated, and the resulting solid was dried for 12-18 hours under vacuum.

reactant | 1-[4-(4-hydroxy-6′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-ylamino)-phenyl]-ethanone | 3.5 mmol, 0.99 g | OC1CCN(CC1)C1=NC(=CC(=C1)NC1=CC=C(C=C1)C(C)=O)C1=CC=CC=C1 | C24H25N3O2
reactant | 4-hydroxypiperidine | 7 mmol, 0.7079 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 4.2 mmol, 0.5835 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[3-(6′-chloro-4-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-ylamino)-phenyl]-ethanone | ClC1=CC(=CC(=N1)N1CCC(CC1)O)NC=1C=C(C=CC1)C(C)=O | C18H20ClN3O2
